US08138189B2
Step 5: 3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenol
3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-quinolin-3-yl-butan-2-ol (2.60 g) was suspended in aqueous HBr (48%, 52 ml). The mixture was stirred for 16 h at 80° C., for 20 h at 105° C., for 7 h at 110° C. and for 6 h at 120° C. The reaction mixture was poured into ice water/EtOAc neutralized with aqueous sat. Na2CO3 solution and extracted with EtOAc. The organic phase was washed with water and dried (MgSO4). The product was purified by chromatography (SiO2, cyclohexane=>cyclohexane/EtOAc 1:1=>EtOAc/MeOH 9:1=>1:1) and subsequently precipitated from hot EtOAc to give the title compound (1.83 g) as an off-white solid. MS (m/e)=382.1 [M+H+].

reactant | 3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-quinolin-3-yl-butan-2-ol | 2.60 g | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C=1C=NC2=CC=CC=C2C1)C | C20H17ClF3NO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HBr | 52 ml | Br | BrH
product | 3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenol | 1.83 g | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C=1C=NC2=CC=CC=C2C1)O)C)O | C19H15ClF3NO2
